US04831055
Sodium 4-[2-(4-isopropylbenzamido)ethoxy]benzoate
4-[2-(4-Isopropylbenzamido)ethoxy]benzoic acid (3.27 g) was dissolved in 50 ml of methanol, a solution of 0.40 g of sodium hydroxide in 5 ml of water was added thereto, the mixture was concentrated in vacuo, and crystallized residue was recrystallised from methanol to give 2.46 g of crystalline product, m.p. not lower than 300° C. IR γmaxKBr (cm-1): 1640, 1605.

reactant | 4-[2-(4-Isopropylbenzamido)ethoxy]benzoic acid | 3.27 g | C(C)(C)C1=CC=C(C(=O)NCCOC2=CC=C(C(=O)O)C=C2)C=C1 | C19H21NO4
reactant | sodium hydroxide | 0.40 g | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | Sodium 4-[2-(4-isopropylbenzamido)ethoxy]benzoate | 2.46 g | C(C)(C)C1=CC=C(C(=O)NCCOC2=CC=C(C(=O)[O-])C=C2)C=C1.[Na+] | InChI=1S/C19H21NO4.Na/c1-13(2)14-3-5-15(6-4-14)18(21)20-11-12-24-17-9-7-16(8-10-17)19(22)23;/h3-10,13H,11-12H2,1-2H3,(H,20,21)(H,22,23);/q;+1/p-1
